US08026366B2
To a vigorously stirred pale orange solution of 7-benzyloxy-2-ethylthiazolo[4,5-c]quinoline 5-oxide (15.00 g, 44.6 mmol) in dichloromethane (200 mL), at room temperature, was slowly added trichloroacetylisocyanate (1.05 eq., 5.6 ml 46.8 mmol). The solution was maintained at room temperature for 18 hours. At this time the reaction was quenched by the addition of concentrated ammonium hydroxide solution (60 ml). An off-white precipitate formed and was collected by vacuum filtration. Recrystallization from acetonitrile provided 11.3 g of 7-benzyloxy-2-ethylthiazolo[4,5-c]quinolin-4-amine as a white crystalline solid, mp 208-209° C. MS (APCI) m/z 336.1 (M+H)+; Anal. calcd for C19H17N3OS: C, 68.03; H, 5.11; N, 12.53. Found: C, 67.45; H, 4.83; N, 12.41.

reactant | 7-benzyloxy-2-ethylthiazolo[4,5-c]quinoline 5-oxide | 44.6 mmol, 15.00 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=[N+](C2C1)[O-])N=C(S3)CC | C19H16N2O2S
reactant | trichloroacetylisocyanate | 46.8 mmol, 5.6 ml, 1.05 eq. | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 7-benzyloxy-2-ethylthiazolo[4,5-c]quinolin-4-amine | 11.3 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(S3)CC | C19H17N3OS
